US05753679
0.45 g (0.003 mol) of 2,4-dimethylbenzoic acid were boiled under reflux in 5.2 ml (0.06 mol) of oxalyl chloride for 3 hrs. After removal of the excess oxalyl chloride the mixture was concentrated twice with 5 ml of toluene each time. The residue was dissolved in 20 ml of toluene, treated with 0.74 ml (0.0053 mol) of triethylamine and 0.574 g (0.003 mol) of 1-benzyl-4-hydroxypiperidine and boiled at reflux for 18 hrs. After removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane (1:3). 0.805 g (83%) of 1-benzyl-piperidin-4-yi 2,4-dimethyl-benzoate was obtained as a yellow oil. MS: me/e=324 (C21H26NO2 +).

reactant | 2,4-dimethylbenzoic acid | 0.003 mol, 0.45 g | CC1=C(C(=O)O)C=CC(=C1)C | C9H10O2
reactant | oxalyl chloride | 0.06 mol, 5.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.0053 mol, 0.74 ml | C(C)N(CC)CC | C6H15N
reactant | 1-benzyl-4-hydroxypiperidine | 0.003 mol, 0.574 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
product | 1-benzyl-piperidin-4-yi 2,4-dimethyl-benzoate | 0.805 g, 83% | CC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)C | C21H25NO2
